US04677098
5-oxo-alpha-hydroxy-2-pyrrolidinepropanoic acid, methyl ester (1.87 g), and Amberlite (IR--120 H+) (1.9 g) in 20 ml of water is warned at 60° C. for 36 hours, filtered, and the solvent removed under reduced pressure. The resulting solid is washed with ethyl acetate and filtered to yield 5-oxo-alpha-hydroxy-2-pyrrolidinepropanoic acid. NMR (DMSOD6) and 7.89 (d, J=11 Hz, 1HO, 5.35 (bs, 1H), 3.99 (m, 1HO, 3.44 (m, 1/2H), 3.30 (m, 1/2H), 2.48-1.21 (m, 6H). IR (cm-1) 3370, 3280, 2940, 1694, 1355, 1213, 1120.

reactant | 5-oxo-alpha-hydroxy-2-pyrrolidinepropanoic acid, methyl ester | 1.87 g | O=C1CCC(N1)CC(C(=O)OC)O | C8H13NO4
solvent | water | 20 ml | O | H2O
product | 5-oxo-alpha-hydroxy-2-pyrrolidinepropanoic acid | O=C1CCC(N1)CC(C(=O)O)O | C7H11NO4
